US07994168B2
f) Benzyl [6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate
A solution of 218 mg of benzyl (2-(2,4-dichlorobenzenesulfonylamino)-1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)isopropylcarbamoyl]ethylcarbamoyl}ethyl)carbamate in 3 ml of formic acid is stirred at room temperature for 12 h and then at 55° C. for 5 h. The reaction solution is concentrated under reduced pressure, and the residue is separated by HPLC (Knauer Eurospher-100-10-C18, water (0.1% trifluoroacetic acid)/acetonitrile (0.1% trifluoroacetic acid)=80/20→10/90). The desired product is obtained with MW=692.10 (calculated monoisotopic); measured value (M+H)+: 693.05.

reactant | benzyl (2-(2,4-dichlorobenzenesulfonylamino)-1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)isopropylcarbamoyl]ethylcarbamoyl}ethyl)carbamate | 218 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NCC(C(NC(CC1=CC=C(C=C1)Cl)C(N(C(C)C)CC(OCC)OCC)=O)=O)NC(OCC1=CC=CC=C1)=O | C35H43Cl3N4O8S
reactant | formic acid | 3 ml | C(=O)O | CH2O2
product | Benzyl [6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate | ClC1=CC=C(CC2C(N(CC3N2C(C(CN3S(=O)(=O)C3=C(C=C(C=C3)Cl)Cl)NC(OCC3=CC=CC=C3)=O)=O)C(C)C)=O)C=C1 | C31H31Cl3N4O6S
